US04665188
A mixture of 0.49 g of tertiary butyl nitrite and 5 ml of dimethylformamide was heated at 50° C. and then 1.0 g of ethyl 6-(2-amino-5-thiazolylmethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate was added portionwise thereto. The resulting mixture was stirred at 60° C. for 1 hour. After cooling, ethyl acetate was added to the reaction mixture and the mixture was washed with water and dried and then concentrated in vacuo. The residue was purified by silica gel column chromatography using a mixture of methanol and chloroform (1:50 by volume) for elution to give 720 mg of ethyl 6-(5-thiazolylmethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate as an oil.

reactant | tertiary butyl nitrite | 0.49 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | ethyl 6-(2-amino-5-thiazolylmethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate | 1.0 g | NC=1SC(=CN1)CC=1C=C2CCC(CC2=CC1)C(=O)OCC | C17H20N2O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 6-(5-thiazolylmethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate | 720 mg | S1C=NC=C1CC=1C=C2CCC(CC2=CC1)C(=O)OCC | C17H19NO2S
